US03971772
A solution of 4.8 g of 21-chloro-9-fluoro-11β,17-dihydroxy-16α-[(2-phenyloxiranyl)methoxy]pregna-1,4-diene-3,20-dione in 150 ml of tetrahydrofuran is stirred with a solution of 10 g of periodic acid in 40 ml of water for 4 hours. The resulting slurry is diluted with 1 liter of water and filtered. The solid is dried in vacuo and recrystallized from methanol-chloroform to give 2.4 g of 21-chloro-9-fluoro-11β,17-dihydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione, melting point 266°-268°C, dec.

reactant | 21-chloro-9-fluoro-11β,17-dihydroxy-16α-[(2-phenyloxiranyl)methoxy]pregna-1,4-diene-3,20-dione | 4.8 g | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)OCC1(OC1)C1=CC=CC=C1)O)=O | C30H34ClFO6
reactant | periodic acid | 10 g | I(=O)(=O)(=O)O | HIO4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | water | 1 liter | O | H2O
product | 21-chloro-9-fluoro-11β,17-dihydroxy-16α-(2-oxo-2-phenylethoxy)pregna-1,4-diene-3,20-dione | 2.4 g | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)OCC(C1=CC=CC=C1)=O)O)=O | C29H32ClFO6
